US08791142B2
Step 2) [5-bromo-2-(2-ethylpiperidin-1-yl)phenyl]methanol
To a solution of 5-bromo-2-(2-ethylpiperidin-1-yl)benzaldehyde (10 g, 48.4 mmol) in methanol (100 mL) under nitrogen was added sodium borohydride (1.28 g, 48.4 mmol) at 0° C. in portions. The reaction mixture was stirred at RT for 1 hour, then evaporated to remove methanol. The resulting crude was taken up with water (100 mL) and extracted with EtOAc. The organic layer was washed with water, then dried (Na2SO4) and concentrated under reduced pressure to afford the title compound as a yellow oil (8.8 g, 88%). 1H NMR (DMSO-d6, 400 MHz) δ 7.55 (1H, s), 7.34-7.54 (1H, m), 7.08 (1H, d), 5.19 (1H, t), 4.62 (1H, d), 4.46 (1H, d), 2.77-2.84 (2H, m), 2.45 (1H, m), 1.74 (2H, t), 1.55 (2H, t), 1.33 (2H, m), 1.17 (2H, m), 0.62 (3H, t).

reactant | 5-bromo-2-(2-ethylpiperidin-1-yl)benzaldehyde | 48.4 mmol, 10 g | BrC=1C=CC(=C(C=O)C1)N1C(CCCC1)CC | C14H18BrNO
reactant | sodium borohydride | 48.4 mmol, 1.28 g | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | [5-bromo-2-(2-ethylpiperidin-1-yl)phenyl]methanol | 8.8 g, 88% | BrC=1C=CC(=C(C1)CO)N1C(CCCC1)CC | C14H20BrNO
